* C:\git-checkouts\ads-bee\ltspice\tracking_comparator.asc
R1 N007 N008 10k
D1 N006 N008 1N5819
R2 N007 N006 100k
C1 N007 0 100p
V1 N003 0 PULSE(0 0.01 0 10n 200n 0.5u 1u)
R3 N010 N006 10k
C2 N010 0 10p
V2 3v3 0 3.3
XU2 N010 N007 3v3 0 N009 level2 Avol=100Meg GBW=100Meg Slew=1G Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N006 N003 10k
XU1 N004 N001 3v3 0 N002 level2 Avol=1Meg GBW=10G Slew=10G Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 N002 N001 1N5819
C3 N001 0 1n
R5 N004 N003 100k
R6 N004 0 200k
R7 N001 0 10k
XU3 N003 N001 3v3 0 N005 level2 Avol=10Meg GBW=1G Slew=1G Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\jkail\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 20u 0 10n
.model SN74LVC1G3157 SW(Ron=6 Roff=1G Vt=1.65 Vh=0.66)
* Standard Leaky Comparator
* Buffered Leaky Comparator
.lib UniversalOpAmp2.lib
.backanno
.end
